US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 3-(2-benzyloxyphenoxy)prop-1-yl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2- (1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{3-(2-benzyloxyphenoxy)prop-1-yl}amine hydrochloride.

reactant | 3-(2-benzyloxyphenoxy)prop-1-yl methanesulfonate | CS(=O)(=O)OCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C17H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2- (1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{3-(2-benzyloxyphenoxy)prop-1-yl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C28H32N2O2.ClH/c1-28(2,19-23-20-29-25-14-7-6-13-24(23)25)30-17-10-18-31-26-15-8-9-16-27(26)32-21-22-11-4-3-5-12-22;/h3-9,11-16,20,29-30H,10,17-19,21H2,1-2H3;1H
